US07728025B2
(Step 4) Production of 4-(2-methoxy-phenoxy)-2-pyridin-2-yl-6-(pyridin-3-yloxy)-1H-benzimidazole
0.026 ml of pyridin-2-carboxaldehyde was added to a nitrobenzene (0.5 ml) solution of 59 mg of 3-(2-methoxyphenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine at 120° C., and the reaction liquid was stirred for 1 hour at the same temperature. The reaction mixture was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1 to ethyl acetate to chloroform/methanol=20/1). The solvent of the resulting fraction was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=20/1) to obtain the entitled compound as a pale yellow solid.

reactant | pyridin-2-carboxaldehyde | 0.026 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | nitrobenzene | 0.5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 3-(2-methoxyphenoxy)-5-(pyridin-3-yloxy)-benzene-1,2-diamine | 59 mg | COC1=C(OC2=C(C(=CC(=C2)OC=2C=NC=CC2)N)N)C=CC=C1 | C18H17N3O3
product | 4-(2-methoxy-phenoxy)-2-pyridin-2-yl-6-(pyridin-3-yloxy)-1H-benzimidazole | COC1=C(OC2=CC(=CC=3NC(=NC32)C3=NC=CC=C3)OC=3C=NC=CC3)C=CC=C1 | C24H18N4O3
